US06642244B2
4,6-Dihydroxy-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester
To a solution of diethyl malonate (9.6 g, 60 mmol) in a freshly prepared solution of NaOEt in EtOH (from 2.52 g of 60% oil dispersion NaH and 40 mL of EtOH) was added a solution of 5-amino-2-p-methoxybenzyl4-pyrazolecarboxylic ethyl ester (4.2 g, 15 mmol) in EtOH (60 mL) at rt. The resulting solution was refluxed for 20 h. The mixture was concentrated and the residue was dissolved in H2O (250 mL) and washed with EtOAc (60 mL). The aqueous layer was acidified with AcOH to pH 5. The product (5.1 g) was collected by filtration and dried under high vacuum. LC: 3.47′ (Gradient 1); MH+: 344

reactant | diethyl malonate | 60 mmol, 9.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaOEt | CC[O-].[Na+]
reactant | 5-amino-2-p-methoxybenzyl4-pyrazolecarboxylic ethyl ester | 15 mmol, 4.2 g | C(C)OC(=O)C1=CN(N=C1N)CC1=CC=C(C=C1)OC | C14H17N3O3
solvent | EtOH | 40 mL, 2.52 g | CCO | C2H6O
solvent | EtOH | 60 mL | CCO | C2H6O
product | 4,6-Dihydroxy-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2C(N=C1O)=NN(C2)CC2=CC=C(C=C2)OC)O | C17H17N3O5
